US06583135B2
Preparation of tert-Butyl 6-(2-Anilino-2-oxoethyl)-8,9-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
DMAP (60 mg, 0.49 mmol), aniline (0.050 mL, 0.55 mmol) and DIC (0.084 mL, 0.54 mmol) were added to the solution of crude [3-(tert-butoxycarbonyl)-8,9-dichloro-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl]acetic acid (0.20 g, 0.48 mmol) in dry THF (2.5 mL). After 18 h, the reaction was diluted with EtOAc followed by washing with 10% aqueous citric acid, saturated aqueous NaHCO3, and brine. The organic layer was then dried over Na2SO4, decanted, and concentrated. The crude product was first purified by column chromatography (Biotage, 40S, SIM) with CH2Cl2/EtOAc (98:2) to give 0.12 g of impure product. Then, crystallization from EtOAc/heptane gave 91 mg (39%) of a white solid: mp 172.5° C.; IR (diffuse reflectance) 3288, 1699, 1661, 1602, 1550, 1498, 1472, 1442, 1421, 1367, 1309, 1298, 1268, 1252, 1162 cm−1; MS (CI) m/z 488 (M+H+), 390, 388, 354, 153, 152, 136, 95, 93, 52, 51; Anal. Calcd for C25H27Cl2N3O3: C, 61.48; H, 5.57; N, 8.60; found: C, 61.49; H, 5.67; N, 8.51.

reactant | aniline | 0.55 mmol, 0.050 mL | NC1=CC=CC=C1 | C6H7N
reactant | DIC | 0.54 mmol, 0.084 mL | CC(N=C=NC(C)C)C | C7H14N2
reactant | [3-(tert-butoxycarbonyl)-8,9-dichloro-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl]acetic acid | 0.48 mmol, 0.20 g | C(C)(C)(C)OC(=O)N1CCC=2N(C=3C=C(C(=CC3C2CC1)Cl)Cl)CC(=O)O | C19H22Cl2N2O4
catalyst | DMAP | 0.49 mmol, 60 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl 6-(2-Anilino-2-oxoethyl)-8,9-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.12 g | N(C1=CC=CC=C1)C(CN1C2=C(C=3C=C(C(=CC13)Cl)Cl)CCN(CC2)C(=O)OC(C)(C)C)=O | C25H27Cl2N3O3
